data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "[Rh] catalyst"}], "steps": [{"reactants": "C=CCC(O[SiH](c1ccccc1)c1ccccc1C(C)C)C(C)C.[Rh]", "products": "C=CCC(O[Si]([RhH])(c1ccccc1)c1ccccc1C(C)C)C(C)C"}, {"reactants": "C=CCC(O[Si]([RhH])(c1ccccc1)c1ccccc1C(C)C)C(C)C", "products": "CC(C)c1ccccc1[Si]1(c2ccccc2)OC(C(C)C)C[CH]2[CH2][RhH]21"}, {"reactants": "CC(C)c1ccccc1[Si]1(c2ccccc2)OC(C(C)C)C[CH]2[CH2][RhH]21", "products": "CC(C)c1ccccc1[Si]1(c2ccccc2)OC(C(C)C)CC1[CH2][RhH]"}, {"reactants": "CC(C)c1ccccc1[Si]1(c2ccccc2)OC(C(C)C)CC1[CH2][RhH].[C-]#[O+]", "products": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C"}, {"reactants": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C", "products": "CC(C)c1ccccc1[Si]1(c2ccccc2)OC(C(C)C)CC1C[C](=O)[RhH]"}, {"reactants": "CC(C)c1ccccc1[Si]1(c2ccccc2)OC(C(C)C)CC1C[C](=O)[RhH]", "products": "CC(C)c1ccccc1[Si]1(c2ccccc2)OC(C(C)C)CC1CC=O.[Rh]"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "CCOc1cccc(CO[C@@H]2[C@@H](OCc3ccccc3)CN3OC4(CC4)C[C@H]23)c1", "products": "CCOc1cccc(CO[C@@H]2[C@@H](OCc3ccccc3)C[N][C@@H]2CC2([O])CC2)c1"}, {"reactants": "CCOc1cccc(CO[C@@H]2[C@@H](OCc3ccccc3)C[N][C@@H]2CC2([O])CC2)c1", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1cccc(OCC)c1"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1cccc(OCC)c1", "products": "CCOc1cccc(CO[C@H]2CN3CCC(=O)C[C@H]3[C@@H]2OCc2ccccc2)c1"}]}
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2c(Cl)c([Si](C)(C)C)c([Si](C)(C)C)c(Cl)c21", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\c(Cl)c([Si](C)(C)C)c([Si](C)(C)C)c(Cl)c1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\c(Cl)c([Si](C)(C)C)c([Si](C)(C)C)c(Cl)c1=C", "products": "C[C@]12CC[C@@H]3c4c(Cl)c([Si](C)(C)C)c([Si](C)(C)C)c(Cl)c4CC[C@H]3[C@@H]1CCC2=O"}]}
{"conditions": [], "steps": [{"reactants": "C[C@@H]1C[C@H]2CC=CC[C@H]2[C@H](NO)C1F.C=O", "products": "C[C@@H]1C[C@H]2CC=CC[C@H]2[C@H]([NH+](O)C[O-])C1F"}, {"reactants": "C[C@@H]1C[C@H]2CC=CC[C@H]2[C@H]([NH+](O)C[O-])C1F", "products": "C[C@@H]1C[C@H]2CC=CC[C@H]2[C@H](N(O)CO)C1F"}, {"reactants": "C[C@@H]1C[C@H]2CC=CC[C@H]2[C@H](N(O)CO)C1F", "products": "C=[N+](O)[C@@H]1C(F)[C@H](C)C[C@H]2CC=CC[C@H]21.[OH-]"}, {"reactants": "C=[N+](O)[C@@H]1C(F)[C@H](C)C[C@H]2CC=CC[C@H]21", "products": "C=[N+]([O-])[C@@H]1C(F)[C@H](C)C[C@H]2CC=CC[C@H]21"}, {"reactants": "C=[N+]([O-])[C@@H]1C(F)[C@H](C)C[C@H]2CC=CC[C@H]21", "products": "C[C@@H]1C[C@H]2CC3O[N@]4CC3C[C@H]2[C@H]4C1F"}]}
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2cc([Si](C)(CC)CC)c([Si](C)(C)C)cc21", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(CC)CC)c([Si](C)(C)C)cc1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(CC)CC)c([Si](C)(C)C)cc1=C", "products": "CC[Si](C)(CC)c1cc2c(cc1[Si](C)(C)C)CC[C@@H]1[C@@H]2CC[C@]2(C)C(=O)CC[C@@H]12"}]}
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2c1cc([Si](C)(C)CC)c([Si](C)(C)C)c2C", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\c(C)c([Si](C)(C)C)c([Si](C)(C)CC)cc1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\c(C)c([Si](C)(C)C)c([Si](C)(C)CC)cc1=C", "products": "CC[Si](C)(C)c1cc2c(c(C)c1[Si](C)(C)C)[C@H]1CC[C@]3(C)C(=O)CC[C@H]3[C@@H]1CC2"}]}
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2cc([Si](C)(C)COC)c([Si](C)(C)CC)cc21", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)COC)c([Si](C)(C)CC)cc1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)COC)c([Si](C)(C)CC)cc1=C", "products": "CC[Si](C)(C)c1cc2c(cc1[Si](C)(C)COC)[C@H]1CC[C@]3(C)C(=O)CC[C@H]3[C@@H]1CC2"}]}
{"conditions": [{"role": "reagent", "text": "H2SO4"}, {"role": "reagent", "text": "0 °C"}], "steps": [{"reactants": "CC1(C)C2CCC1(C)C(O)(c1cccc(F)c1F)C(=O)C2.[H+]", "products": "CC1(C)C2CCC1(C)C([OH2+])(c1cccc(F)c1F)C(=O)C2"}, {"reactants": "CC1(C)C2CCC1(C)C([OH2+])(c1cccc(F)c1F)C(=O)C2", "products": "CC12CCC(CC(=O)[C+]1c1cccc(F)c1F)C2(C)C.O"}, {"reactants": "CC12CCC(CC(=O)[C+]1c1cccc(F)c1F)C2(C)C", "products": "C[C+]1C2(c3cccc(F)c3F)CCC(CC2=O)C1(C)C"}, {"reactants": "C[C+]1C2(c3cccc(F)c3F)CCC(CC2=O)C1(C)C", "products": "CC1=C(c2cccc(F)c2F)CCC(C#[O+])C1(C)C"}, {"reactants": "CC1=C(c2cccc(F)c2F)CCC(C#[O+])C1(C)C.O", "products": "CC1=C(c2cccc(F)c2F)CCC(C(=O)[OH2+])C1(C)C"}, {"reactants": "CC1=C(c2cccc(F)c2F)CCC(C(=O)[OH2+])C1(C)C", "products": "C[C+]1C(c2cccc(F)c2F)CCC(C(=O)O)C1(C)C"}, {"reactants": "C[C+]1C(c2cccc(F)c2F)CCC(C(=O)O)C1(C)C", "products": "CC1(C)C2CCC(c3cccc(F)c3F)C1(C)[OH+]C2=O"}, {"reactants": "CC1(C)C2CCC(c3cccc(F)c3F)C1(C)[OH+]C2=O", "products": "CC1(C)C2CCC(c3cccc(F)c3F)C1(C)OC2=O.[H+]"}]}
